### PR TITLE
Remove useless instances

### LINKED ISSUE #1389: Review and remove the `HB.instance` declarations with ` #[warning="-HB.no-new-instance"]` attribute
For example, the instances below seem redundant.
https://github.com/math-comp/math-comp/blob/a67482a7dba1672ad27b7ef7edde77016698952d/algebra/matrix.v#L1664-L1680 https://github.com/math-comp/math-comp/blob/a67482a7dba1672ad27b7ef7edde77016698952d/algebra/matrix.v#L2163-L2195
I guess this particular redundancy was introduced because of the duplication of semi-additive and additive functions that happened while porting MC to HB.

I'm almost certain that all of them can be safely removed, but such an extensive clean-up should probably be done after the next release.

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

fixes #1389 
Removes a few `HB.instance` that do not declare new instances.

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
I suggest rebasing, reviewing, and then merging this PR after merging #1398, without waiting for #1395.

File: algebra/matrix.v [hunk 1]
```diff
@@ -2291,15 +2242,15 @@ Variables (aR rR : zmodType) (f : {additive aR -> rR}) (m n : nat).
...
 
+#[deprecated(since="mathcomp 2.5.0",
+      note="use `raddfB` instead")]
 Lemma map_mxB A B : (A - B)^f = A^f - B^f.
-Proof. by rewrite map_mxD map_mxN. Qed.
-
-#[warning="-HB.no-new-instance"]
-HB.instance Definition _ :=
-  GRing.isZmodMorphism.Build 'M[aR]_(m, n) 'M[rR]_(m, n) (map_mx f) map_mxB.
+Proof. by rewrite map_mxD raddfN. Qed.
```
Comment (pi8027) [inline algebra/matrix.v]: I think we should not deprecate these lemmas.

File: algebra/matrix.v [hunk 2]
```diff
@@ -3317,6 +3317,7 @@ Arguments lin_mul_row {R m n} u.
 Arguments diag_mx_comm {R n}.
 Arguments comm_mx_scalar {R n}.
 Arguments comm_scalar_mx {R n}.
+Arguments diag_mx_comm {R n}.
```
Comment (pi8027) [inline algebra/matrix.v]: This line seems duplicated (3 lines above).

File: algebra/matrix.v [hunk 3]
```diff
@@ -3425,7 +3426,7 @@ Proof. by apply/matrixP=> i j; rewrite !mxE cofactor_map_mx. Qed.
 End FixedSize.
 
 Lemma map_copid_mx n r : (copid_mx r)^f = copid_mx r :> 'M_n.
-Proof. by rewrite map_mxB map_mx1 map_pid_mx. Qed.
+Proof. by rewrite raddfB/= map_mx1 map_pid_mx. Qed.
```
Comment (pi8027) [inline algebra/matrix.v]: I suggest reverting this change. Same for `mxalgebra.v`.

**Comment by pi8027** [comment]
@Tragicus The CI stuff is subsumed by #1443. Can you rebase this PR again?

**Review by pi8027 — APPROVED** [review]
